US09422281B2
Iron powder (0.101 g, 1.811 mmol) was added to a solution of (S)-2-(6-bromo-4-nitropyridin-3-ylamino)propane-1-ol (0.050 g, 0.181 mmol) and ammonium chloride (2.422 mg, 0.045 mmol) in ethanol (2.0 mL) and water (0.7 mL). The reaction mixture was heated at 80° C. for 2 h. The mixture was cooled to room temperature and filtered through celite (washing with methanol). The filtrate was concentrated and the residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The aqueous phase was separated and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to afford (S)-2-(4-amino-6-bromopyridin-3-ylamino)propane-1-ol (0.028 g, 63%) as a purple solid. MS (ESI, pos. ion) m/z 246, 248.

reactant | (S)-2-(6-bromo-4-nitropyridin-3-ylamino)propane-1-ol | 0.181 mmol, 0.050 g | BrC1=CC(=C(C=N1)N[C@H](CO)C)[N+](=O)[O-] | C8H10BrN3O3
reactant | ammonium chloride | 0.045 mmol, 2.422 mg | [Cl-].[NH4+]
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
solvent | water | 0.7 mL | O | H2O
catalyst | Iron | 1.811 mmol, 0.101 g | [Fe] | Fe
product | (S)-2-(4-amino-6-bromopyridin-3-ylamino)propane-1-ol | 0.028 g, 63% | NC1=C(C=NC(=C1)Br)N[C@H](CO)C | C8H12BrN3O
